US06340759B1
3-(4-Methoxyphenyl)isoquinolin-1-one obtained by reacting N-methyl-o-toluamide (1.49 g) and 3-methoxybenzonitrile (1.33 g) according to Example 10-1 was reacted with phosphorous oxychloride (10 ml) according to Example 10-2, to give 1-chloro-3-(3-methoxyphenyl)isoquinoline. Then, it was reacted with N-ethylpiperazine (10 ml) at 120° C. for 6 hr. The reaction solution was evaporated, and ethyl acetate and water were added to the resulting residue. The resulting organic layer was washed with water and brine, and then dried over magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (methylene chloride/methanol system), to give the free compound of the title compound as a pale yellow oil.

reactant | N-methyl-o-toluamide | 1.49 g | CNC(=O)C=1C(=CC=CC1)C | C9H11NO
reactant | 3-methoxybenzonitrile | 1.33 g | COC=1C=C(C#N)C=CC1 | C8H7NO
reactant | phosphorous oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-chloro-3-(3-methoxyphenyl)isoquinoline | ClC1=NC(=CC2=CC=CC=C12)C1=CC(=CC=C1)OC | C16H12ClNO
